US07361719B2
Under nitrogen conditions, 30 ml of chloroform were added to 500 mg (1.567 mmol) of 1-ethyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxo-3-quinoline carboxylic acid in a round flask of 50 ml, into which 0.436 ml (3.134 mmol) of triethylamine was then charged and stirred at room temperature for 10 minutes. While the inside temperature of the container was maintained at −10° C., 0.127 ml (1.567 mmol) of acrylochloride was slowly dripped thereinto and reacted. The reaction was conducted under nitrogen at −10° C. for 3 hours, then distilled water was added to the reactants, which were then extracted with dichloromethane. The extracts were concentrated and then chromatographed (20 gm silica, 7% MeOH/CH2Cl2) to give 1-ethyl-6-fluoro-1,4-dihydro-7-[4-(1-oxo-2-propenyl)-1-piperazinyl]4-oxo-3-quinoline carboxylic acid.

reactant | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 1-ethyl-6-fluoro-1,4-dihydro-7-(1-piperazinyl)-4-oxo-3-quinoline carboxylic acid | 1.567 mmol, 500 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C16H18FN3O3
reactant | triethylamine | 3.134 mmol, 0.436 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
product | 1-ethyl-6-fluoro-1,4-dihydro-7-[4-(1-oxo-2-propenyl)-1-piperazinyl]4-oxo-3-quinoline carboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C(C=C)=O)F)=O)C(=O)O | C19H20FN3O4
